US03957782
23.5 g. of N-butyl-6-butylamino-1-ethyl-1H-pyrazolo-[3,4-b]pyrazine-5-carboxamide (0.0735 mol.) suspended in 230 ml. of sodium hydroxide (2.5 N) and 460 ml. of ethanol are heated at reflux for 48 hours. Then the solution is evaporated to a volume of about 60-80 ml. The sodium salt of the acid precipitates. Acidification of the pulp with dilute hydrochloric acid with stirring provides 6-butylamino-1-ethyl-1H-pyrazolo[3,4-b]pyrazine-5-carboxylic acid which is filtered off, washed with water and dried at 75°, yield 17.7 g. (91%), m.p., 97°-98° (hexane). The ester is prepared by reacting the foregoing acid with alcoholic hydrochloric acid at room temperature for 4 days. After this period, the ethanol is evaporated, the residue treated with dilute ammonia in order to remove unreacted acid and then dried at 40°. Recrystallization from ligroin yields 6-butylamino-1-ethyl-1H-pyrazolo[3,4-b]-pyrazine-5-carboxylic acid ethyl ester, m.p. 64.5°-65.5°.

reactant | N-butyl-6-butylamino-1-ethyl-1H-pyrazolo-[3,4-b]pyrazine-5-carboxamide | 0.0735 mol | C(CCC)NC(=O)C=1N=C2C(=NC1NCCCC)N(N=C2)CC | C16H26N6O
reactant | sodium hydroxide | 2.5 N | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 6-butylamino-1-ethyl-1H-pyrazolo[3,4-b]pyrazine-5-carboxylic acid | C(CCC)NC1=C(N=C2C(=N1)N(N=C2)CC)C(=O)O | C12H17N5O2
